US06653299B1
BOC-1,3-diaminopropane was reacted with Fmoc-OSu in dichloromethane in the presence of DIPEA, and the resulting product treated with 4M HCl in dioxane to afford Fmoc-1,3-diaminopropane hydrochloride in quantitative yield. To a solution of Fmoc-diaminopropane hydrochloride (1.1 g, 3.3 mmol), Compound 1 (1.27 g, 3.3 mmol) and Py-BOP (1.46 g, 3.3 mmol) in DMF (10 ml), was added DIPEA (1.15 ml, 6.6 mmol) and the mixture was stirred for 4 hours at room temperature. The reaction mixture was diluted with EtOAc (200 ml), washed with water, saturated aqueous sodium hydrogen carbonate, 1M aqueous potassium hydrogen sulphate, brine, and concentrated under reduced pressure to afford Compound 22 as a white solid that was triturated with hexane, collected by filtration and dried in vacuo.

reactant | BOC-1,3-diaminopropane | C(=O)(OC(C)(C)C)C(CCN)N | C8H18N2O2
reactant | Fmoc-OSu | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)ON1C(=O)CCC1=O | C19H15NO5
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
reactant | HCl | 4M | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | Fmoc-1,3-diaminopropane hydrochloride | quantitative yield | Cl.C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)C(CCN)N | InChI=1S/C18H20N2O2.ClH/c19-10-9-17(20)18(21)22-11-16-14-7-3-1-5-12(14)13-6-2-4-8-15(13)16;/h1-8,16-17H,9-11,19-20H2;1H
